US07259183B2
Preparation of 2,3-Dihydro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-phenethyl-amide 88
To a solution of 310 mg (0.76 mmol) of 1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-phenethyl-amide in 5 ml acetic acid cooled to 0° C. were added in portions 142 mg (2.26 mmol) of sodium cyano borohydride. The reaction mixture was stirred for 2 h at 0° C. and 2N aqueous sodium hydroxide solution was added until the reaction mixture was basic. The reaction mixture was extracted with diethyl ether. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated to yield 310 mg (100%) of product as a colorless oil. MS (ISP) 413.5 (M+H)+.

reactant | 1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-phenethyl-amide | 0.76 mmol, 310 mg | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CCC2=CC=CC=C2)C=C1 | C28H30N2O
reactant | sodium cyano borohydride | 2.26 mmol, 142 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dihydro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-phenethyl-amide | 310 mg, 100% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3CCNC23)CCC2=CC=CC=C2)C=C1 | C28H32N2O
